US07119207B2
(1,1-Dimethyl-4-nitro-butyl)-carbamic acid tert-butyl ester
To (1,1-Dimethyl-4-nitro-but-3-enyl)-carbamic acid tert-butyl ester (2.0 g, 8.2 mmol) in 20 mL of EtOH was added NaBH4 (500 mg, 13.5 mmol). The mixture was stirred 1 h and then quenched with saturated NH4Cl (40 mL). The solution was extracted with EtOAc (2×25 mL), the extracts were washed with brine, dried with MgSO4 and concentrated. Silica gel chromatography (10:1 hexane/EtOAc) gave 1.57 g (78%) of a colorless oil: mass spectru m/e=147 (M−100).

reactant | (1,1-Dimethyl-4-nitro-but-3-enyl)-carbamic acid tert-butyl ester | 8.2 mmol, 2.0 g | C(C)(C)(C)OC(NC(CC=C[N+](=O)[O-])(C)C)=O | C11H20N2O4
reactant | NaBH4 | 13.5 mmol, 500 mg | [BH4-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | (1,1-Dimethyl-4-nitro-butyl)-carbamic acid tert-butyl ester | 1.57 g, 78% | C(C)(C)(C)OC(NC(CCC[N+](=O)[O-])(C)C)=O | C11H22N2O4
